US08633173B2
7-[8-(2,2-difluoro-1,3-benzodioxol-4-yl)-[1,2,4]triazolo[1,5-a]pyridin-2-yl-amino]-1,2,4,5-tetrahydro-3-benzazepine-3-carboxylic acid tert-butyl ester was prepared from 2-chloro-8-(2,2-difluoro-1,3-bezodioxol-4-yl)-[1,2,4]triazolo[1,5-a]pyridine (0.78 g, 2.5 mmol), and 7-amino-1,2,4,5-tetrahydro-3-benzazepine-3-carboxylic acid tert-butyl ester (0.99 g, 3.778 mmol), in a manner analogous to Example 2d. Product was isolated as a foam (0.78 g, 58%). 1H NMR (400 MHz, CDCl3, δ, ppm): 8.48 (d, J=6 Hz, 1H), 7.61 (d, J=6 Hz, 1H), 7.51-7.42 (m, 4H), 7.00-6.89 (m, 3H), 6.79 (s, 1H), 3.62-3.45 (m, 4H), 2.84-2.74 (m, 4H), 1.52 (s, 9H). MS=536 (MH)+.

reactant | 2-chloro-8-(2,2-difluoro-1,3-bezodioxol-4-yl)-[1,2,4]triazolo[1,5-a]pyridine | 2.5 mmol, 0.78 g | ClC1=NN2C(C(=CC=C2)C2=CC=CC=3OC(OC32)(F)F)=N1 | C13H6ClF2N3O2
reactant | 7-amino-1,2,4,5-tetrahydro-3-benzazepine-3-carboxylic acid tert-butyl ester | 3.778 mmol, 0.99 g | C(C)(C)(C)OC(=O)N1CCC2=C(CC1)C=CC(=C2)N | C15H22N2O2
product | 7-[8-(2,2-difluoro-1,3-benzodioxol-4-yl)-[1,2,4]triazolo[1,5-a]pyridin-2-yl-amino]-1,2,4,5-tetrahydro-3-benzazepine-3-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC2=C(CC1)C=CC(=C2)NC2=NN1C(C(=CC=C1)C1=CC=CC=3OC(OC31)(F)F)=N2 | C28H27F2N5O4
